US08686048B2
Intermediate 52: 3-chloro-2′,5-difluoro-5′-methoxybiphenyl-4-amine
The title compound (70 mg) was prepared from 4-bromo-2-chloro-6-fluoroaniline (100 mg, 0.44 mmol) and 2-fluoro-5-methoxyphenylboronic acid (98 mg, 0.58 mmol) as a white solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.30-7.24 (m, 2H), 7.17 (t, J 9.1, 1H), 7.02-6.97 (m, 1H), 6.90-6.84 (m, 1H), 5.61 (s, 2H), 3.77 (s, 3H).

reactant | 4-bromo-2-chloro-6-fluoroaniline | 0.44 mmol, 100 mg | BrC1=CC(=C(N)C(=C1)F)Cl | C6H4BrClFN
reactant | 2-fluoro-5-methoxyphenylboronic acid | 0.58 mmol, 98 mg | FC1=C(C=C(C=C1)OC)B(O)O | C7H8BFO3
product | 3-chloro-2′,5-difluoro-5′-methoxybiphenyl-4-amine | 70 mg | ClC=1C=C(C=C(C1N)F)C1=C(C=CC(=C1)OC)F | C13H10ClF2NO
